US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-benzylisoquinoline
To a mixture solution of 1-(4-ethylpiperazin-1-yl)-3-bromoisoquinoline (0.71 g) cooled to 0° C. and [1,3-bis(diphenylphosphino)propane]dichloronickel(II) (0.05 g) in diethyl ether (20 ml) was dropwise added 1M benzylmagnesium chloride/ether solution (4.5 ml) in nitrogen atmosphere. The reaction mixture was stirred at room temperature overnight. The reaction solution was diluted with ether (30 ml), washed with water and brine, and then dried over magnesium sulfate. The solvent was removed, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/acetone system), to give the title compound (0.44 g; 59.5%) as a pale yellow oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-bromoisoquinoline | 0.71 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)Br | C15H18BrN3
reactant | benzylmagnesium chloride ether | 1M, 4.5 ml | C(C1=CC=CC=C1)[Mg]Cl.CCOCC
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
catalyst | [1,3-bis(diphenylphosphino)propane]dichloronickel(II) | 0.05 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 1-(4-ethylpiperazin-1-yl)-3-benzylisoquinoline | 0.44 g, 59.5% | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)CC1=CC=CC=C1 | C22H25N3
